US08871756B2
N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]alaninamide
The title compound was prepared in analogy to Example 40-2 in Scheme 18 by using 2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-amine, 2-bromopropionyl chloride and sodium azide. MS obsd. (ESI+) [(M+H)+] 425, 1H NMR (400 MHz, CD3OD) δ ppm 8.07-7.85 (m, 3 H), 7.64-7.51 (m, 2 H), 7.46-7.35 (m, 2 H), 5.22-5.08 (m, 2 H), 4.51-4.42 (m, 1 H), 3.65-3.53 (m, 2 H), 3.37 (s, 3 H), 2.51-2.40 (m, 3 H), 1.73 (d, J=7.07 Hz, 1 H), 1.30 (d, J=2.78 Hz, 2 H).

reactant | 2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-amine | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)N)C)=O | C19H19N3O2S
reactant | 2-bromopropionyl chloride | BrC(C(=O)Cl)C | C3H4BrClO
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
product | N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]alaninamide | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NC([C@@H](N)C)=O)C)=O | C22H24N4O3S
